US04038391
Sodium hydride (50% dispersion in mineral oil) (0.8 g.) is added to a suspension of 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (4.63 g.) in anhydrous dimethylformamide (45 cc.), whilst keeping the temperature between 18°-20° C. The reaction mixture is stirred for a further 4 hours 30 minutes. A solution of 1-chlorocarbonyl-4-methylpiperazine (2.7 g.) in anhydrous dimethylformamide (25 cc.) is then added over the course of 15 minutes and at a temperature of 20° C. The suspension is stirred for 17 hours at a temperature of about 20° C., and then anhydrous hexamethylphosphotriamide (7 cc.) is added. After 15 minutes, the reaction mixture is poured into ice-water (500 g.). The precipitate is filtered off and washed with water (45 cc.). A product (6.1 g.) is obtained and is recrystallised from diisopropyl ether (1,500 cc.). 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-(4 -methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (3 g.), melting at 191° C., is thus obtained.

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 4.63 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C17H13N3O3
reactant | 1-chlorocarbonyl-4-methylpiperazine | 2.7 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | hexamethylphosphotriamide | 7 cc | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | dimethylformamide | 45 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 cc | CN(C=O)C | C3H7NO
product | 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-(4 -methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one | 3 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C)=O | C23H23N5O4
